US06313126B1
5-Methoxy-3-[cis-4-[4-(1H-indol-4-yl)-1-piperazinyl]cyclohexyl]-1H-indole
A solution of 4-(5-methoxy-1H-indol-3-yl)-cyclohexanone (1.2 g, 5 mmol), 1-(indol-4-yl)piperazine (1 g, 5 mmol), sodium triacetoxyborohydride (1.47 g, 6.2 mmol) and acetic acid (0.28 ml, 4 mmol) in 1,2-dichloroethane (20 ml) was allowed to stir at room temperature overnight. The reaction was quenched with 1N sodium hydroxide (10 ml), extracted with methylene chloride (3×60 ml) and washed with brine (3×60 ml). The organic layer was dried over anhydrous sodium sulfate and filtered. Chromatography (2.5% methanol-ethyl acetate) afforded 1.18 g (55%) of product as a white solid: mp 105-108° C.

reactant | 4-(5-methoxy-1H-indol-3-yl)-cyclohexanone | 5 mmol, 1.2 g | COC=1C=C2C(=CNC2=CC1)C1CCC(CC1)=O | C15H17NO2
reactant | 1-(indol-4-yl)piperazine | 5 mmol, 1 g | N1C=CC2=C(C=CC=C12)N1CCNCC1 | C12H15N3
reactant | sodium triacetoxyborohydride | 6.2 mmol, 1.47 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 4 mmol, 0.28 ml | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 5-Methoxy-3-[cis-4-[4-(1H-indol-4-yl)-1-piperazinyl]cyclohexyl]-1H-indole | 1.18 g, 55% | COC=1C=C2C(=CNC2=CC1)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C1=C2C=CNC2=CC=C1 | C27H32N4O
